US07709468B2
Cyclopropyl-4-[2-(4-fluorophenyl)-8-methylimidazo[1,2-a]pyrazin-3-yl]-pyrimidin-2-ylamine
To a mixture of 2-(4-fluorophenyl)-3-(2-methanesulfonylpyrimidin-4-yl)-8-methylimidazo[1,2-a]pyrazine (Example #G.1; 3.66 g, 9.55 mmol) in ACN (70 mL) was added cyclopropylamine (3.31 mL, 47.7 mmol). The mixture was heated to about 80° C. After about 16 h, the mixture was treated with additional cyclopropylamine (3.0 mL, 43 mmol) and heated at about 80° C. for about another 4 h. The mixture was cooled to ambient temperature and filtered. The resulting solid was washed with ACN and dried to yield the title compound as a white solid (2.85 g, 83%): LC/MS (Table 1, Method b) Rt=2.0 min; MS m/z: 361.2 (M+H)+.

reactant | 2-(4-fluorophenyl)-3-(2-methanesulfonylpyrimidin-4-yl)-8-methylimidazo[1,2-a]pyrazine | 9.55 mmol, 3.66 g | FC1=CC=C(C=C1)C=1N=C2N(C=CN=C2C)C1C1=NC(=NC=C1)S(=O)(=O)C | C18H14FN5O2S
reactant | cyclopropylamine | 47.7 mmol, 3.31 mL | C1(CC1)N | C3H7N
reactant | cyclopropylamine | 43 mmol, 3.0 mL | C1(CC1)N | C3H7N
solvent | ACN | 70 mL | C(C)#N | C2H3N
product | Cyclopropyl-4-[2-(4-fluorophenyl)-8-methylimidazo[1,2-a]pyrazin-3-yl]-pyrimidin-2-ylamine | 2.85 g, 83% | C1(CC1)NC1=NC=CC(=N1)C1=C(N=C2N1C=CN=C2C)C2=CC=C(C=C2)F | C20H17FN6
